US07053089B2
The benzyl 4-{[(3-methyl-2-pyridinyl)amino]carbonyl}-1-piperidinecarboxylate was prepared as described in EXAMPLE 1, except that 1-[(benzyloxy)carbonyl]-4-piperidinecarboxylic acid (5.00 g, 18.99 mmol), 2-amino-3-methylpyridine (2.16 g, 19.94 mmol), EDC (4.37 g, 22.79 mmol), and HOAt (2.71 g, 19.94 mmol) and DMF (3 mL) were used as starting materials. Benzyl 4-{[(3-methyl-2-pyridinyl)amino]carbonyl}-1-piperidinecarboxylate was isolated as an off-white solid and used without further purification.

reactant | 1-[(benzyloxy)carbonyl]-4-piperidinecarboxylic acid | 18.99 mmol, 5.00 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | 2-amino-3-methylpyridine | 19.94 mmol, 2.16 g | NC1=NC=CC=C1C | C6H8N2
reactant | EDC | 22.79 mmol, 4.37 g
reactant | HOAt | 19.94 mmol, 2.71 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Benzyl 4-{[(3-methyl-2-pyridinyl)amino]carbonyl}-1-piperidinecarboxylate | CC=1C(=NC=CC1)NC(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H23N3O3
